US08791123B2
(R)-(5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)(pyrrolidin-1-yl)methanone
To a solution of (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (Preparation I, 50 mg, 0.15 mmol) in anhydrous CH2Cl2 (2 mL) was added HOBt (41 mg, 0.31 mmol) followed by EDCI (88 mg, 0.46 mmol). The solution was stirred for 15 minutes, then treated with triethylamine (64 μL, 0.46 mmol) followed by pyrrolidine (38 μL, 0.46 mmol). After stirring at ambient temperature overnight, the reaction mixture was partitioned between saturated NH4Cl (20 mL) and CH2Cl2 (20 mL). The aqueous layer was extracted with CH2Cl2 (2×10 mL). The combined organic phases were washed with brine (10 mL), dried over Na2SO4 and concentrated. The crude material was purified by silica chromatography (2 to 5% MeOH/CH2Cl2) to yield the final product as white solid (38 mg, 65%). LCMS (apci) m/z=381.1 (M+H).

reactant | (R)-5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | 0.15 mmol, 50 mg | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)O | C16H14FN5O2
reactant | HOBt | 0.31 mmol, 41 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI | 0.46 mmol, 88 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | triethylamine | 0.46 mmol, 64 μL | C(C)N(CC)CC | C6H15N
reactant | pyrrolidine | 0.46 mmol, 38 μL | N1CCCC1 | C4H9N
solvent | CH2Cl2 | 2 mL | C(Cl)Cl | CH2Cl2
product | (R)-(5-(2-(5-fluoropyridin-3-yl)pyrrolidin-1-yl)pyrazolo[1,5-a]pyrimidin-3-yl)(pyrrolidin-1-yl)methanone | 38 mg, 65% | FC=1C=C(C=NC1)[C@@H]1N(CCC1)C1=NC=2N(C=C1)N=CC2C(=O)N2CCCC2 | C20H21FN6O
